US08183289B2
To a stirred solution of N-(2,4-dichlorophenethyl)-2-fluoro-4-hydroxybenzamide (420 mg, 1.28 mmol) and tert-butyl 2-(3-cyano-4-fluorophenyl)acetate (361 mg, 1.54 mmol) in DMSO (6 ml) was added K2CO3 (265 mg, 1.92 mmol). The reaction was heated stirred at 70° C. for one hour. The reaction was then stirred at 90° C. overnight. The reaction was diluted with water and ethyl acetate. The aqueous phase was extracted with ethyl acetate and the combined organic layers were washed with 10% Na2CO3 and brine, dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel chromatography to give tert-butyl 2-(4-(4-((2,4-dichlorophenethyl)carbamoyl)-3-fluorophenoxy)-3-cyanophenyl)acetate (0.0157 g).

reactant | N-(2,4-dichlorophenethyl)-2-fluoro-4-hydroxybenzamide | 1.28 mmol, 420 mg | ClC1=C(CCNC(C2=C(C=C(C=C2)O)F)=O)C=CC(=C1)Cl | C15H12Cl2FNO2
reactant | tert-butyl 2-(3-cyano-4-fluorophenyl)acetate | 1.54 mmol, 361 mg | C(#N)C=1C=C(C=CC1F)CC(=O)OC(C)(C)C | C13H14FNO2
reactant | K2CO3 | 1.92 mmol, 265 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-(4-(4-((2,4-dichlorophenethyl)carbamoyl)-3-fluorophenoxy)-3-cyanophenyl)acetate | 0.0157 g | ClC1=C(CCNC(=O)C2=C(C=C(OC3=C(C=C(C=C3)CC(=O)OC(C)(C)C)C#N)C=C2)F)C=CC(=C1)Cl | C28H25Cl2FN2O4
